US09422502B2
Synthesis of 2-ethylhexyl 2-(2-(2-oxo-1,3-dioxolan-4-yl)ethylthio)acetate
3.07 grams (26.9 mmol, MW: 114.10) 4-vinyl-1,3-dioxaolane-2-one, 5.0 grams (24.5 mmol, MW: 204.13) 2-ethylhexyl thioglycolate and 0.402 grams (2.45 mmol, MW: 164.21) 2,2′-azobis(2-methylpropionitrile) (AIBN) were charged in 25 milliliter thick sealed glass reactor. After addition, the reaction mixture was stirred for 22 hours at 110° C. The reaction was then stopped and cooled down to room temperature. The excess of unreacted 4-vinyl-1,3-dioxaolane-2-one was removed by air bath oven at 180° C. under vacuum for 1 hour. The final product was determined by IR, 13C NMR. Yield: 6.0 grams (77%). IR: (cm−1) 3046, 2957, 2926, 2870, 2857, 1596, 1510, 1458, 1394, 1378, 1260, 1219, 1165, 1077, 1016, 779, 730. 13C NMR (CDCl3): 170.4, 154.7, 75.5, 69.2, 67.8, 38.4, 33.7, 33.5, 30.3, 28.9, 27.8, 23.6, 22.9, 14.3, 10.7.

reactant | 4-vinyl-1,3-dioxaolane-2-one | 26.9 mmol, 3.07 grams | C(=C)C1OC(OC1)=O | C5H6O3
reactant | 2-ethylhexyl thioglycolate | 24.5 mmol, 5.0 grams | C(CS)(=O)OCC(CCCC)CC | C10H20O2S
reactant | 2,2′-azobis(2-methylpropionitrile) | 2.45 mmol, 0.402 grams | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-ethylhexyl 2-(2-(2-oxo-1,3-dioxolan-4-yl)ethylthio)acetate | O=C1OCC(O1)CCSCC(=O)OCC(CCCC)CC | C15H26O5S
